US05359098
2-Cyclohexyl-6-[5-(4-hydroxypiperidinyl)pentoxy]-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclohexanecarbonyl chloride, 1-bromo-5-chloropentane, and 4-hydroxypiperidine: mp 85°-86° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 1-bromo-5-chloropentane | BrCCCCCCl | C5H10BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-Cyclohexyl-6-[5-(4-hydroxypiperidinyl)pentoxy]-4H-1-benzopyran-4-one | C1(CCCCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCN2CCC(CC2)O | C25H35NO4
